US08748012B2
A solution of 9-(3-((3-bromophenyl)diphenylsilyl)phenyl)-9H-carbazole (6.00 g, 10.33 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (3.15 g, 12.40 mmol), potassium acetate (1.014 g, 10.33 mmol), Pd2(dba)3 (9.46 g, 10.33 mmol) and dppf (6.31 g, 10.33 mmol) in dioxane (200 mL) was refluxed under nitrogen overnight. After cooling to room temperature, the black reaction mixture was diluted with water, extracted with EtOAc and dried over Na2SO4. Upon evaporation of the solvent, the crude product was purified by column chromatography on silica gel with hexane:EtOAc (9:1, v/v) as eluent to yield 9-(3-(diphenyl(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)silyl)phenyl)-9H-carbazole (3.26 g, 50%) as a white solid.

reactant | 9-(3-((3-bromophenyl)diphenylsilyl)phenyl)-9H-carbazole | 10.33 mmol, 6.00 g | BrC=1C=C(C=CC1)[Si](C=1C=C(C=CC1)N1C2=CC=CC=C2C=2C=CC=CC12)(C1=CC=CC=C1)C1=CC=CC=C1 | C36H26BrNSi
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 12.40 mmol, 3.15 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 10.33 mmol, 1.014 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 200 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | Pd2(dba)3 | 10.33 mmol, 9.46 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | dppf | 10.33 mmol, 6.31 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 9-(3-(diphenyl(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)silyl)phenyl)-9H-carbazole | 3.26 g, 50% | C1(=CC=CC=C1)[Si](C=1C=C(C=CC1)N1C2=CC=CC=C2C=2C=CC=CC12)(C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1 | C42H38BNO2Si
